US07459469B2
(S)—N-Methyl-N-(tert-butoxycarbonyl)-4-penten-2-amine
A mixture of (R)-4-penten-2-ol (7.62 g, 88.5 mmol), pyridine (15 mL), and dry (distilled from calcium hydride) dichloromethane (30 mL) was stirred in an ice bath as p-toluenesulfonyl chloride (18.6 g, 97.4 mmol) was added over a 3 min period. The mixture was stirred 20 min at 0° C. and 16 h at ambient temperature, as a heavy precipitate formed. Saturated aqueous sodium bicarbonate (75 mL) was added, and the biphasic mixture was stirred vigorously for 3 h. The dichloromethane phase and two dichloromethane extracts (50 mL each) of the aqueous phase were combined, dried (Na2SO4), and concentrated by rotary evaporation. High vacuum treatment left 18.7 g of light yellow oil, which was combined with dimethylformamide (DMF) (35 mL) and 40% aqueous methylamine (35 mL). This solution was stirred at ambient temperature for 48 h and then poured into a mixture of saturated aqueous sodium chloride (300 mL) and 2.5 M sodium hydroxide (50 mL). This mixture was extracted with ether (5×250 mL), and the ether extracts were dried (Na2SO4) and concentrated by rotary evaporation (from an ice cooled bath) to a volume of about 250 mL. The remaining solution was combined with di-tert-butyl dicarbonate (16.9 g, 77.4 mmol) and THF (100 mL), and the mixture was stirred at ambient temperature for 16 h. The volatiles were evaporated by rotary evaporation, and the residue was vacuum distilled at 5 mm pressure (bp 79-86° C.), to give 7.74 g (43.9% yield) of clear, colorless liquid.

reactant | (R)-4-penten-2-ol | 88.5 mmol, 7.62 g | C[C@H](CC=C)O | C5H10O
reactant | p-toluenesulfonyl chloride | 97.4 mmol, 18.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium bicarbonate | 75 mL | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 77.4 mmol, 16.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)—N-Methyl-N-(tert-butoxycarbonyl)-4-penten-2-amine | 43.9% yield | CN([C@@H](C)CC=C)C(=O)OC(C)(C)C | C11H21NO2
